US07034039B2
Tert-butyl[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.15 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from ethyl acetate-diisopropyl ether to give 3-(aminomethyl)-6-(benzyloxy)-2-isobutyl-4-(2-thienyl)-1(2H)-isoquinolinone hydrochloride (0.11 g, 84.6%) as crystals.

reactant | Tert-butyl[6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.3 mmol, 0.15 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)OCC1=CC=CC=C1)=O)CC(C)C)=O | C30H34N2O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-6-(benzyloxy)-2-isobutyl-4-(2-thienyl)-1(2H)-isoquinolinone hydrochloride | 0.11 g, 84.6% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)OCC1=CC=CC=C1)=O)CC(C)C | InChI=1S/C25H26N2O2S.ClH/c1-17(2)15-27-22(14-26)24(23-9-6-12-30-23)21-13-19(10-11-20(21)25(27)28)29-16-18-7-4-3-5-8-18;/h3-13,17H,14-16,26H2,1-2H3;1H
